US08754080B2
Synthesis of 5-(8-bromo-9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine
To a solution of 5-(9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine, (1.03 g, 3.03 mmol) in 15 ml of chloroform, was added slowly NBS (594 mg, 3.34 mmol) at a temperature of 5° C. The reaction was continued for 2 h at this temperature. After simple work-up, the product 5-(8-bromo-9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine was purified by flash column (solvent system: 50% ethyl acetate in hexane) to deliver 5-(8-bromo-9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine in a yield of 52% (660 mg). 1H NMR, MeOD: 9.67 (s, 2H), 4.90 (m, 1H), 3.89 (m, 4H), 3.82 (s, 4H), 1.72 (d, 6H). m/z: 419.31, 421.07 [MH]+.

reactant | 5-(9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | 3.03 mmol, 1.03 g | C(C)(C)N1C2=NC(=NC(=C2N=C1)C=1C=NC(=NC1)N)N1CCOCC1 | C16H20N8O
reactant | NBS | 3.34 mmol, 594 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(8-bromo-9-isopropyl-2-morpholin-4-yl-9H-purin-6-yl)-pyrimidin-2-ylamine | yield of 52% | BrC=1N(C2=NC(=NC(=C2N1)C=1C=NC(=NC1)N)N1CCOCC1)C(C)C | C16H19BrN8O
